US06284863B1
Production of poly(p-hydroxystyrene/p-ethoxystyrene)
Into a reaction vessel were charged 21.0 parts of the same poly(p-vinylphenol) as that used in Example 1 and 84 parts of acetone. They were stirred to form a solution Additionally charged were 12.7 parts of anhydrous potassium carbonate and 8.2 parts of ethyl iodide. The temperature was elevated so that the mixture reached to the reflux state. Subsequently, the reflux state was kept for 15 hours After adding methyl isobutyl ketone, the solution was washed with aqueous oxalic acid solution and then with ion-exchanged water. The organic layer after washing was concentrated to 44 parts, combined with 130 parts of propylene glycol monomethyl ether acetate and further concentrated to 63 parts. The solid content of the concentrate measured by weight-loss on heating was 34.19% by weight. By 1H-NMR measurement. it was confirmed that the resin after reaction was a copolymer in which 28.8% of hydroxyl groups in poly(p-vinylphenol) was converted to ethyl ether. The resin was referred to as Resin RB.

reactant | acetone | CC(=O)C | C3H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | C(C)I | C2H5I
reactant | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
solvent | poly(p-vinylphenol) | C#CC1=CC=C(C=C1)O | C8H6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | p-hydroxystyrene p-ethoxystyrene | OC1=CC=C(C=C)C=C1.C(C)OC1=CC=C(C=C)C=C1 | InChI=1S/C10H12O.C8H8O/c1-3-9-5-7-10(8-6-9)11-4-2;1-2-7-3-5-8(9)6-4-7/h3,5-8H,1,4H2,2H3;2-6,9H,1H2
